US05616579
N-[4-(4-Piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-(2-pyrimidinylthio) butyramide
2.78 g of 2-mercaptopyrimidine were added to a solution of 1.95 g of 85% potassium hydroxide and 9.03 g of N-[4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-chlorobutyramide (prepared as described in Preparation 2) in 140 ml of methanol, and the resulting mixture was heated under reflux for 15 hours. At the end of this time, the reaction mixture was cooled, and the solvent was removed by distillation under reduced pressure. The resulting residue was mixed with water, and the aqueous mixture was extracted with ethyl acetate. The extract was concentrated by evaporation under reduced pressure, and the concentrate was purified by column chromatography through silica gel, using a 9:1 by volume mixture of ethyl acetate and methanol as the eluent, to give 10.1 g (yield 92%) of the title compound as an oil.

reactant | 2-mercaptopyrimidine | 2.78 g | SC1=NC=CC=N1 | C4H4N2S
reactant | potassium hydroxide | 1.95 g | [OH-].[K+]
reactant | N-[4-(4-piperidinomethyl-2-pyridyloxy)-cis-2-butenyl]-4-chlorobutyramide | 9.03 g | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCCl)=O | C19H28ClN3O2
solvent | methanol | 140 ml | CO | CH4O
product | N-[4-(4-Piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]-4-(2-pyrimidinylthio) butyramide | 10.1 g, yield 92% | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CNC(CCCSC1=NC=CC=N1)=O | C23H31N5O2S
